### PR TITLE
feat: uniformly integrable Lᵖ tails tend to 0 uniformly

### PR DESCRIPTION
**Pull request by FrankieNC**
Adds `UniformIntegrable.tendsto_iSup_eLpNorm_indicator_atTop`: for a uniformly integrable family `f`,

    Tendsto (fun M ↦ ⨆ i, eLpNorm ({x | M ≤ ‖f i x‖₊}.indicator (f i)) p μ) atTop (𝓝 0).

This is the `Tendsto` companion to the existing `UniformIntegrable.spec`, which only provides, for each `ε`, a single threshold `C`.

This is the form that arises when truncating an L¹/Lᵖ family at increasing norm levels — e.g. vector-valued truncation / Komlós-type arguments — where the existing ProbabilityTheory.truncation does not apply, being real- and order-interval-valued.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/Function/UniformIntegrable.lean [hunk 1]
```diff
@@ -874,6 +874,22 @@ theorem UniformIntegrable.spec (hp : p ≠ 0) (hp' : p ≠ ∞) (hfu : UniformIn
   · rw [Set.indicator_of_notMem hfx, Set.indicator_of_notMem]
     rwa [Set.mem_setOf, hx] at hfx
 
+/-- For a uniformly integrable family `f`, the `eLpNorm` of the tail
+`{x | M ≤ ‖f i x‖₊}.indicator (f i)` tends to `0` uniformly in `i` as the level `M` tends to
+infinity. -/
+theorem UniformIntegrable.tendsto_iSup_eLpNorm_indicator_atTop
+    (hp : p ≠ 0) (hp' : p ≠ ∞) (hfu : UniformIntegrable f p μ) :
+    Tendsto (fun M : ℝ≥0 ↦ ⨆ i, eLpNorm ({x | M ≤ ‖f i x‖₊}.indicator (f i)) p μ) atTop (𝓝 0) := by
```
Comment (CoolRmal) [inline Mathlib/MeasureTheory/Function/UniformIntegrable.lean]: This should also be true for `p = 0` by [MeasureTheory.eLpNorm_exponent_zero](https://leanprover-community.github.io/mathlib4_docs/Mathlib/MeasureTheory/Function/LpSeminorm/Basic.html#MeasureTheory.eLpNorm_exponent_zero) so that we have less arguments for this theorem. In fact, I think [UniformIntegrable.spec](https://leanprover-community.github.io/mathlib4_docs/Mathlib/MeasureTheory/Function/UniformIntegrable.html#MeasureTheory.UniformIntegrable.spec) should also be true without the assumption `hp : p ≠ 0`. May you remove these unnecessary assumptions?

**Review by CoolRmal — COMMENTED** [review]
This is similar to some lemmas I added in https://github.com/RemyDegenne/brownian-motion/pull/445 for the Brownian motion project. If you don't mind, may you also prove the following lemmas?
1. Prove the equivalence between `UniformIntegrable` and the convergence of `Lᵖ tails` to zero.
2. I also want an equivalence by replacing the nonstrict inequality in `{x | M ≤ ‖f i x‖₊}` with the strict inequality. In fact, all theorems in Mathlib.MeasureTheory.Function.UniformIntegrable right now are only proved for the nonstrict inequality, and I want all their analogues with the strict inequality. This may be a big refactoring.

You can probably use some lemmas I proved in https://github.com/RemyDegenne/brownian-motion/pull/445 as a reference (note that I do not claim what I proved in that PR reaches Mathlib quality but rather I kind of want you to improve what I proved).

File: Mathlib/MeasureTheory/Function/UniformIntegrable.lean (hunk 1 above)
Comment (FrankieNC) [reply Mathlib/MeasureTheory/Function/UniformIntegrable.lean]: Thank you for your review! I will implement your suggestions.

File: Mathlib/MeasureTheory/Function/UniformIntegrable.lean [hunk 2]
```diff
@@ -874,16 +876,93 @@ theorem UniformIntegrable.spec (hp : p ≠ 0) (hp' : p ≠ ∞) (hfu : UniformIn
...
 /-- The definition of uniform integrable in mathlib is equivalent to the definition commonly
 found in literature. -/
 theorem uniformIntegrable_iff [IsFiniteMeasure μ] (hp : 1 ≤ p) (hp' : p ≠ ∞) :
     UniformIntegrable f p μ ↔
       (∀ i, AEStronglyMeasurable (f i) μ) ∧
         ∀ ε : ℝ, 0 < ε → ∃ C : ℝ≥0,
           ∀ i, eLpNorm ({ x | C ≤ ‖f i x‖₊ }.indicator (f i)) p μ ≤ ENNReal.ofReal ε :=
-  ⟨fun h => ⟨h.1, fun _ => h.spec (lt_of_lt_of_le zero_lt_one hp).ne.symm hp'⟩,
+  ⟨fun h => ⟨h.1, fun _ => h.spec hp'⟩,
     fun h => uniformIntegrable_of hp hp' h.1 h.2⟩
```
Comment (CoolRmal) [inline Mathlib/MeasureTheory/Function/UniformIntegrable.lean]:
```suggestion
  ⟨fun h => ⟨h.1, fun _ => h.spec hp'⟩, fun h => uniformIntegrable_of hp hp' h.1 h.2⟩
```

File: Mathlib/MeasureTheory/Function/UniformIntegrable.lean [hunk 3]
```diff
@@ -874,16 +876,93 @@ theorem UniformIntegrable.spec (hp : p ≠ 0) (hp' : p ≠ ∞) (hfu : UniformIn
...
+      simp [hx, hx']
+    · simp [hx]
+
+/-- A family `f` is uniformly integrable iff it is `AEStronglyMeasurable` and the `eLpNorm` of its
+tail `{x | M ≤ ‖f i x‖₊}.indicator (f i)` tends to `0` uniformly in `i` as `M` tends to infinity. -/
+theorem uniformIntegrable_iff_tendsto_iSup_eLpNorm_indicator_atTop [IsFiniteMeasure μ]
+    (hp : 1 ≤ p) (hp' : p ≠ ∞) :
+    UniformIntegrable f p μ ↔
+      (∀ i, AEStronglyMeasurable (f i) μ) ∧
+        Tendsto (fun M : ℝ≥0 ↦ ⨆ i, eLpNorm ({x | M ≤ ‖f i x‖₊}.indicator (f i)) p μ)
```
Comment (CoolRmal) [inline Mathlib/MeasureTheory/Function/UniformIntegrable.lean]:
```suggestion
        Tendsto (fun C : ℝ≥0 ↦ ⨆ i, eLpNorm ({x | C ≤ ‖f i x‖₊}.indicator (f i)) p μ)
```
Be consistent with variables. And same for other places

**Review by CoolRmal — COMMENTED** [review]
Mathlib also has [UnifIntegrable](https://leanprover-community.github.io/mathlib4_docs/Mathlib/MeasureTheory/Function/UniformIntegrable.html#MeasureTheory.UnifIntegrable), so I think you should prove these variants with strict inequalities for [unifIntegrable_of'](https://leanprover-community.github.io/mathlib4_docs/Mathlib/MeasureTheory/Function/UniformIntegrable.html#MeasureTheory.unifIntegrable_of') and [unifIntegrable_of](https://leanprover-community.github.io/mathlib4_docs/Mathlib/MeasureTheory/Function/UniformIntegrable.html#MeasureTheory.unifIntegrable_of) first.

To make the code more concise and more readable, I think it makes sense to have the following two private lemmas:

`(∀ ε : ℝ, 0 < ε → ∃ C : ℝ≥0,
          ∀ i, eLpNorm ({x | C < ‖f i x‖₊}.indicator (f i)) p μ ≤ ENNReal.ofReal ε) ↔ (∀ ε : ℝ, 0 < ε → ∃ C : ℝ≥0,
          ∀ i, eLpNorm ({x | C < ‖f i x‖₊}.indicator (f i)) p μ ≤ ENNReal.ofReal ε)`

`Tendsto (fun M : ℝ≥0 ↦ ⨆ i, eLpNorm ({x | C ≤ ‖f i x‖₊}.indicator (f i)) p μ)
      atTop (𝓝 0) ↔ Tendsto (fun M : ℝ≥0 ↦ ⨆ i, eLpNorm ({x | C < ‖f i x‖₊}.indicator (f i)) p μ)
      atTop (𝓝 0)`

What do you think?

**Comment by FrankieNC** [comment]
> Mathlib also has [UnifIntegrable](https://leanprover-community.github.io/mathlib4_docs/Mathlib/MeasureTheory/Function/UniformIntegrable.html#MeasureTheory.UnifIntegrable), so I think you should prove these variants with strict inequalities for [unifIntegrable_of'](https://leanprover-community.github.io/mathlib4_docs/Mathlib/MeasureTheory/Function/UniformIntegrable.html#MeasureTheory.unifIntegrable_of') and [unifIntegrable_of](https://leanprover-community.github.io/mathlib4_docs/Mathlib/MeasureTheory/Function/UniformIntegrable.html#MeasureTheory.unifIntegrable_of) first.
> 
> To make the code more concise and more readable, I think it makes sense to have the following two private lemmas:
> 
> `(∀ ε : ℝ, 0 < ε → ∃ C : ℝ≥0, ∀ i, eLpNorm ({x | C < ‖f i x‖₊}.indicator (f i)) p μ ≤ ENNReal.ofReal ε) ↔ (∀ ε : ℝ, 0 < ε → ∃ C : ℝ≥0, ∀ i, eLpNorm ({x | C < ‖f i x‖₊}.indicator (f i)) p μ ≤ ENNReal.ofReal ε)`
> 
> `Tendsto (fun M : ℝ≥0 ↦ ⨆ i, eLpNorm ({x | C ≤ ‖f i x‖₊}.indicator (f i)) p μ) atTop (𝓝 0) ↔ Tendsto (fun M : ℝ≥0 ↦ ⨆ i, eLpNorm ({x | C < ‖f i x‖₊}.indicator (f i)) p μ) atTop (𝓝 0)`
> 
> What do you think?

Thanks for the suggestion! I agree, it makes the proofs easier to read (https://github.com/leanprover-community/mathlib4/pull/40788/commits/0aad85b51d957f725938fc2e20eb71bc8ba66d9f).

File: Mathlib/MeasureTheory/Function/UniformIntegrable.lean [hunk 4]
```diff
@@ -874,16 +929,103 @@ theorem UniformIntegrable.spec (hp : p ≠ 0) (hp' : p ≠ ∞) (hfu : UniformIn
...
 
+/-- A version of `UniformIntegrable.spec` with a strict inequality in the tail condition. -/
+theorem UniformIntegrable.spec_lt (hp' : p ≠ ∞) (hfu : UniformIntegrable f p μ) {ε : ℝ}
+    (hε : 0 < ε) :
+    ∃ C : ℝ≥0, ∀ i, eLpNorm ({x | C < ‖f i x‖₊}.indicator (f i)) p μ ≤ ENNReal.ofReal ε := by
+  obtain ⟨C, hC⟩ := hfu.spec hp' hε
+  refine ⟨C, fun i ↦ (eLpNorm_mono fun x ↦ ?_).trans (hC i)⟩
+  by_cases hx : C < ‖f i x‖₊
+  · simp [hx, hx.le]
+  · simp [hx]
```
Comment (CoolRmal) [inline Mathlib/MeasureTheory/Function/UniformIntegrable.lean]:
```suggestion
  forall_exists_eLpNorm_indicator_le_iff_lt.1 (fun _ => hfu.spec hp') ε hε
```

File: Mathlib/MeasureTheory/Function/UniformIntegrable.lean [hunk 5]
```diff
@@ -874,16 +929,103 @@ theorem UniformIntegrable.spec (hp : p ≠ 0) (hp' : p ≠ ∞) (hfu : UniformIn
...
 /-- The definition of uniform integrable in mathlib is equivalent to the definition commonly
 found in literature. -/
 theorem uniformIntegrable_iff [IsFiniteMeasure μ] (hp : 1 ≤ p) (hp' : p ≠ ∞) :
     UniformIntegrable f p μ ↔
       (∀ i, AEStronglyMeasurable (f i) μ) ∧
         ∀ ε : ℝ, 0 < ε → ∃ C : ℝ≥0,
           ∀ i, eLpNorm ({ x | C ≤ ‖f i x‖₊ }.indicator (f i)) p μ ≤ ENNReal.ofReal ε :=
-  ⟨fun h => ⟨h.1, fun _ => h.spec (lt_of_lt_of_le zero_lt_one hp).ne.symm hp'⟩,
+  ⟨fun h => ⟨h.1, fun _ => h.spec hp'⟩,
     fun h => uniformIntegrable_of hp hp' h.1 h.2⟩
```
Comment (CoolRmal) [inline Mathlib/MeasureTheory/Function/UniformIntegrable.lean]: I don't think this unnecessary line break issue is resolved.

File: Mathlib/MeasureTheory/Function/UniformIntegrable.lean [hunk 6]
```diff
@@ -874,16 +929,103 @@ theorem UniformIntegrable.spec (hp : p ≠ 0) (hp' : p ≠ ∞) (hfu : UniformIn
...
+        (fun C : ℝ≥0 ↦ ⨆ i, eLpNorm ({x | C - 1 < ‖f i x‖₊}.indicator (f i)) p μ) atTop (𝓝 0) :=
+      hlt.comp hsub
+    refine tendsto_of_tendsto_of_tendsto_of_le_of_le' tendsto_const_nhds hupper
+      (Eventually.of_forall fun _ ↦ zero_le) ?_
+    filter_upwards [eventually_gt_atTop 0] with C hC
+    refine iSup_mono fun i ↦ eLpNorm_mono fun x ↦ ?_
+    by_cases hx : C ≤ ‖f i x‖₊
+    · have hx' : C - 1 < ‖f i x‖₊ := (tsub_lt_self hC one_pos).trans_le hx
+      simp [hx, hx']
+    · simp [hx]
```
Comment (CoolRmal) [inline Mathlib/MeasureTheory/Function/UniformIntegrable.lean]:
```suggestion
        atTop (𝓝 0) where
  mp hle := by
    refine tendsto_of_tendsto_of_tendsto_of_le_of_le tendsto_const_nhds hle
      (fun _ ↦ zero_le) fun C ↦ iSup_mono fun i ↦ eLpNorm_mono fun x ↦ ?_
    by_cases hx : C < ‖f i x‖₊
    · simp [hx, hx.le]
    · simp [hx]
  mpr hlt := by
    have hsub : Tendsto (fun C : ℝ≥0 ↦ C - 1) atTop atTop :=
      tendsto_atTop_atTop.2 fun b ↦ ⟨b + 1, fun C hC ↦ le_tsub_of_add_le_right hC⟩
    have hupper : Tendsto
        (fun C : ℝ≥0 ↦ ⨆ i, eLpNorm ({x | C - 1 < ‖f i x‖₊}.indicator (f i)) p μ) atTop (𝓝 0) :=
      hlt.comp hsub
    refine tendsto_of_tendsto_of_tendsto_of_le_of_le' tendsto_const_nhds hupper 
      (.of_forall fun _ ↦ zero_le) ?_
    filter_upwards [eventually_gt_atTop 0] with C hC
    refine iSup_mono fun i ↦ eLpNorm_mono fun x ↦ ?_
    by_cases hx : C ≤ ‖f i x‖₊
    · simp [hx, (tsub_lt_self hC one_pos).trans_le hx]
    · simp [hx]
```

File: Mathlib/MeasureTheory/Function/UniformIntegrable.lean [hunk 7]
```diff
@@ -673,6 +673,43 @@ theorem unifIntegrable_of (hp : 1 ≤ p) (hp' : p ≠ ∞) {f : ι → α → β
...
+  · obtain ⟨C, hC⟩ := h ε hε
+    refine ⟨C, fun i ↦ (eLpNorm_mono fun x ↦ ?_).trans (hC i)⟩
+    by_cases hx : C < ‖f i x‖₊
+    · simp [hx, hx.le]
+    · simp [hx]
+  · obtain ⟨C, hC⟩ := h ε hε
+    refine ⟨C + 1, fun i ↦ (eLpNorm_mono fun x ↦ ?_).trans (hC i)⟩
+    by_cases hx : C + 1 ≤ ‖f i x‖₊
+    · have hx' : C < ‖f i x‖₊ := (lt_add_of_pos_right C zero_lt_one).trans_le hx
+      simp [hx, hx']
```
Comment (CoolRmal) [inline Mathlib/MeasureTheory/Function/UniformIntegrable.lean]:
```suggestion
    · simp [hx, (lt_add_of_pos_right C zero_lt_one).trans_le hx]
```
I think it is fine to not know the type of `hx'`. We just need to know it is trivial and can be solved by simp.

File: Mathlib/MeasureTheory/Function/UniformIntegrable.lean [hunk 8]
```diff
@@ -673,6 +673,43 @@ theorem unifIntegrable_of (hp : 1 ≤ p) (hp' : p ≠ ∞) {f : ι → α → β
...
+  unifIntegrable_of hp hp' hf (forall_exists_eLpNorm_indicator_le_iff_lt.mpr h)
+
+/-- A version of `unifIntegrable_of'` with a strict inequality in the tail condition. -/
+theorem unifIntegrable_of'_lt (hp : 1 ≤ p) (hp' : p ≠ ∞) {f : ι → α → β}
+    (hf : ∀ i, StronglyMeasurable (f i))
+    (h : ∀ ε : ℝ, 0 < ε → ∃ C : ℝ≥0, 0 < C ∧
+      ∀ i, eLpNorm ({x | C < ‖f i x‖₊}.indicator (f i)) p μ ≤ ENNReal.ofReal ε) :
+    UnifIntegrable f p μ :=
+  unifIntegrable_of_lt hp hp' (fun i ↦ (hf i).aestronglyMeasurable)
+    fun ε hε ↦ (h ε hε).imp fun _ hC ↦ hC.2
```
Comment (CoolRmal) [inline Mathlib/MeasureTheory/Function/UniformIntegrable.lean]: From your code I realize that they are not really needed in the latter theorems about `UniformIntegrable` (I previously thought they can make the file more structured, sorry for the confusion). Let's delete them for now (we can add them back if we find them to be useful in the future). Also move `forall_exists_eLpNorm_indicator_le_iff_lt` to the section below.

Comment (FrankieNC) [reply Mathlib/MeasureTheory/Function/UniformIntegrable.lean]: No worries, thanks for the suggestions!

File: Mathlib/MeasureTheory/Function/UniformIntegrable.lean [hunk 9]
```diff
@@ -803,6 +822,14 @@ theorem uniformIntegrable_of' [IsFiniteMeasure μ] (hp : 1 ≤ p) (hp' : p ≠ 
     _ = ((C : ℝ≥0∞) * μ Set.univ ^ p.toReal⁻¹ + 1 : ℝ≥0∞).toNNReal := by
       rw [ENNReal.coe_toNNReal (by finiteness)]
 
+/-- A version of `uniformIntegrable_of'` with a strict inequality in the tail condition. -/
+theorem uniformIntegrable_of'_lt [IsFiniteMeasure μ] (hp : 1 ≤ p) (hp' : p ≠ ∞)
```
Comment (CoolRmal) [inline Mathlib/MeasureTheory/Function/UniformIntegrable.lean]: We probably need a better name for this.

Comment (FrankieNC) [reply Mathlib/MeasureTheory/Function/UniformIntegrable.lean]: I changed it to `uniformIntegrable_of_lt'`

**Comment by CoolRmal** [comment]
@RemyDegenne I am pretty happy with this PR apart from the names of the theorems, may you take a look and give some suggestions?

File: Mathlib/MeasureTheory/Function/UniformIntegrable.lean [hunk 10]
```diff
@@ -874,15 +911,95 @@ theorem UniformIntegrable.spec (hp : p ≠ 0) (hp' : p ≠ ∞) (hfu : UniformIn
...
+    ∃ C : ℝ≥0, ∀ i, eLpNorm ({x | C < ‖f i x‖₊}.indicator (f i)) p μ ≤ ENNReal.ofReal ε :=
+  forall_exists_eLpNorm_indicator_le_iff_lt.1 (fun _ => hfu.spec hp') ε hε
+
+/-- For a uniformly integrable family `f`, the `eLpNorm` of the tail
+`{x | C ≤ ‖f i x‖₊}.indicator (f i)` tends to `0` uniformly in `i` as the level `C` tends to
+infinity. -/
+theorem UniformIntegrable.tendsto_iSup_eLpNorm_indicator_atTop (hp' : p ≠ ∞)
+    (hfu : UniformIntegrable f p μ) :
+    Tendsto (fun C : ℝ≥0 ↦ ⨆ i, eLpNorm ({x | C ≤ ‖f i x‖₊}.indicator (f i)) p μ)
+      atTop (𝓝 0) := by
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Function/UniformIntegrable.lean]:
```suggestion
    Tendsto (fun C : ℝ≥0 ↦ ⨆ i, eLpNorm ({x | C ≤ ‖f i x‖₊}.indicator (f i)) p μ) atTop (𝓝 0) := by
```

File: Mathlib/MeasureTheory/Function/UniformIntegrable.lean [hunk 11]
```diff
@@ -722,6 +722,25 @@ In this section, we will develop some API for `UniformIntegrable` and prove that
...
+    (∀ ε : ℝ, 0 < ε → ∃ C : ℝ≥0,
+        ∀ i, eLpNorm ({x | C ≤ ‖f i x‖₊}.indicator (f i)) p μ ≤ ENNReal.ofReal ε) ↔
+      ∀ ε : ℝ, 0 < ε → ∃ C : ℝ≥0,
+        ∀ i, eLpNorm ({x | C < ‖f i x‖₊}.indicator (f i)) p μ ≤ ENNReal.ofReal ε := by
+  refine ⟨fun h ε hε ↦ ?_, fun h ε hε ↦ ?_⟩
+  · obtain ⟨C, hC⟩ := h ε hε
+    refine ⟨C, fun i ↦ (eLpNorm_mono fun x ↦ ?_).trans (hC i)⟩
+    by_cases hx : C < ‖f i x‖₊
+    · simp [hx, hx.le]
+    · simp [hx]
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Function/UniformIntegrable.lean]:
```suggestion
    exact norm_indicator_le_of_subset (by grind) _ _
```

File: Mathlib/MeasureTheory/Function/UniformIntegrable.lean [hunk 12]
```diff
@@ -722,6 +722,25 @@ In this section, we will develop some API for `UniformIntegrable` and prove that
...
+  · obtain ⟨C, hC⟩ := h ε hε
+    refine ⟨C + 1, fun i ↦ (eLpNorm_mono fun x ↦ ?_).trans (hC i)⟩
+    by_cases hx : C + 1 ≤ ‖f i x‖₊
+    · simp [hx, (lt_add_of_pos_right C zero_lt_one).trans_le hx]
+    · simp [hx]
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Function/UniformIntegrable.lean]:
```suggestion
    exact norm_indicator_le_of_subset (fun x hx ↦ (lt_add_one C).trans_le hx) _ _
```

File: Mathlib/MeasureTheory/Function/UniformIntegrable.lean [hunk 13]
```diff
@@ -874,15 +911,95 @@ theorem UniformIntegrable.spec (hp : p ≠ 0) (hp' : p ≠ ∞) (hfu : UniformIn
...
+private theorem tendsto_iSup_eLpNorm_indicator_atTop_le_iff_lt :
+    Tendsto (fun C : ℝ≥0 ↦ ⨆ i, eLpNorm ({x | C ≤ ‖f i x‖₊}.indicator (f i)) p μ) atTop (𝓝 0) ↔
+      Tendsto (fun C : ℝ≥0 ↦ ⨆ i, eLpNorm ({x | C < ‖f i x‖₊}.indicator (f i)) p μ)
+        atTop (𝓝 0) where
+  mp hle := by
+    refine tendsto_of_tendsto_of_tendsto_of_le_of_le tendsto_const_nhds hle
+      (fun _ ↦ zero_le) fun C ↦ iSup_mono fun i ↦ eLpNorm_mono fun x ↦ ?_
+    by_cases hx : C < ‖f i x‖₊
+    · simp [hx, hx.le]
+    · simp [hx]
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Function/UniformIntegrable.lean]:
```suggestion
    exact norm_indicator_le_of_subset (by grind) _ _
```

File: Mathlib/MeasureTheory/Function/UniformIntegrable.lean [hunk 14]
```diff
@@ -874,15 +911,95 @@ theorem UniformIntegrable.spec (hp : p ≠ 0) (hp' : p ≠ ∞) (hfu : UniformIn
...
+    have hupper : Tendsto
+        (fun C : ℝ≥0 ↦ ⨆ i, eLpNorm ({x | C - 1 < ‖f i x‖₊}.indicator (f i)) p μ) atTop (𝓝 0) :=
+      hlt.comp hsub
+    refine tendsto_of_tendsto_of_tendsto_of_le_of_le' tendsto_const_nhds hupper
+      (.of_forall fun _ ↦ zero_le) ?_
+    filter_upwards [eventually_gt_atTop 0] with C hC
+    refine iSup_mono fun i ↦ eLpNorm_mono fun x ↦ ?_
+    by_cases hx : C ≤ ‖f i x‖₊
+    · simp [hx, (tsub_lt_self hC one_pos).trans_le hx]
+    · simp [hx]
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Function/UniformIntegrable.lean]:
```suggestion
    exact norm_indicator_le_of_subset (fun x hx ↦ (tsub_lt_self hC one_pos).trans_le hx) _ _
```

**Comment by EtienneC30** [comment]
Thanks!
maintainer merge

File: Mathlib/MeasureTheory/Function/UniformIntegrable.lean [hunk 15]
```diff
@@ -721,6 +721,21 @@ In this section, we will develop some API for `UniformIntegrable` and prove that
 
 variable {p : ℝ≥0∞} {f : ι → α → β}
 
+/-- The tail-control condition with the nonstrict inequality `C ≤ ‖f i x‖₊` is equivalent to the
+one with the strict inequality `C < ‖f i x‖₊`. -/
+private theorem forall_exists_eLpNorm_indicator_le_iff_lt {f : ι → α → β} :
+    (∀ ε : ℝ, 0 < ε → ∃ C : ℝ≥0,
+        ∀ i, eLpNorm ({x | C ≤ ‖f i x‖₊}.indicator (f i)) p μ ≤ ENNReal.ofReal ε) ↔
+      ∀ ε : ℝ, 0 < ε → ∃ C : ℝ≥0,
+        ∀ i, eLpNorm ({x | C < ‖f i x‖₊}.indicator (f i)) p μ ≤ ENNReal.ofReal ε := by
```
Comment (j-loreaux) [inline Mathlib/MeasureTheory/Function/UniformIntegrable.lean]: each of these is equivalent to (via [Filter.HasBasis.eventually_smallSets](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/Filter/SmallSets.html#Filter.HasBasis.eventually_smallSets)) and is easily derivable from (via [Filter.Eventually.exists_mem_basis_of_smallSets](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/Filter/SmallSets.html#Filter.Eventually.exists_mem_basis_of_smallSets)):
```lean
∀ ε : ℝ, 0 < ε → ∀ᶠ s in atTop.smallSets, ∀ i, eLpNorm (((‖f i ·‖₊) ⁻¹' s).indicator (f i)) p μ ≤ ENNReal.ofReal ε
```
I recommend proving the monotonicity condition (which appears in [Filter.HasBasis.eventually_smallSets](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/Filter/SmallSets.html#Filter.HasBasis.eventually_smallSets) and frequently when referencing `Filter.smallSets`), and then it is easy to go back and forth everywhere via `Filter.smallSets`.

**Review by j-loreaux — COMMENTED** [review]
I only remarked it in one place, but I really think this could all be phrased a bit more nicely by making use of `Filter.smallSets` and the surrounding API. Filters to the rescue again!

**Comment by j-loreaux** [comment]
@EtienneC30 and @D-Thomine I would be especially interested in your thoughts in light of #42092. Perhaps you have in mind an even better phrasing in mind? I think the changes in that PR would avoid the `ENNReal.ofReal ε` phrasing here.

File: Mathlib/MeasureTheory/Function/UniformIntegrable.lean (hunk 15 above)
Comment (FrankieNC) [reply Mathlib/MeasureTheory/Function/UniformIntegrable.lean]: Thanks! The proofs are indeed cleaner now.

**Comment by FrankieNC** [comment]
> @EtienneC30 and @D-Thomine I would be especially interested in your thoughts in light of #42092. Perhaps you have in mind an even better phrasing in mind? I think the changes in that PR would avoid the `ENNReal.ofReal ε` phrasing here.

Since #42092 was merged I was able to change the type `ε` so that I don't have to through `ENNReal.ofReal`.

File: Mathlib/MeasureTheory/Function/UniformIntegrable.lean [hunk 16]
```diff
@@ -711,6 +711,13 @@ In this section, we will develop some API for `UniformIntegrable` and prove that
 
 variable {p : ℝ≥0∞} {f : ι → α → β}
 
+/-- A uniform tail bound over a set of norm values also holds over any smaller set. -/
+private theorem eLpNorm_indicator_norm_preimage_mono {ε : ℝ≥0∞} :
+    ∀ ⦃s t : Set ℝ≥0⦄, s ⊆ t → (∀ i, eLpNorm (((‖f i ·‖₊) ⁻¹' t).indicator (f i)) p μ ≤ ε) →
+      ∀ i, eLpNorm (((‖f i ·‖₊) ⁻¹' s).indicator (f i)) p μ ≤ ε :=
+  fun _ _ hst h i ↦
+    (eLpNorm_mono fun _ ↦ norm_indicator_le_of_subset (preimage_mono hst) _ _).trans (h i)
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Function/UniformIntegrable.lean]:
```suggestion
private theorem eLpNorm_indicator_norm_preimage_mono {ε : ℝ≥0∞} ⦃s t : Set ℝ≥0⦄ (hst : s ⊆ t)
    (h : ∀ i, eLpNorm (((‖f i ·‖₊) ⁻¹' t).indicator (f i)) p μ ≤ ε) (i : ι) :
    eLpNorm (((‖f i ·‖₊) ⁻¹' s).indicator (f i)) p μ ≤ ε :=
  (eLpNorm_mono fun _ ↦ norm_indicator_le_of_subset (preimage_mono hst) _ _).trans (h i)
```

File: Mathlib/MeasureTheory/Function/UniformIntegrable.lean (hunk 15 above)
Comment (FrankieNC) [reply Mathlib/MeasureTheory/Function/UniformIntegrable.lean]: Since #42406 `eLpNorm` is `∞` for non-AE-strongly-measurable functions, and `atTop.smallSets` contains non-measurable sets, so the `smallSets` statements were false so I removed them.

**Comment by D-Thomine** [comment]
Sorry, I've just noticed that j-loreaux pinged me.

There is very significant interaction overlap with my current #42993, #42924 and subsequent projects (which depend on #42993). See in particular definition `UnifLpTail` in #42993.

A few notable points:
* I am deprecating `UniformIntegrable.spec'` in #42924, so any modification to this part of the file is somewhat unnecessary and is going to generate merge conflicts. I can deal with this if needed, though.
* One of the main thrusts of #42993 is to have normalized versions for frequent hypotheses (`UnifLpTail`), and then helper lemmas expressing the equivalence between various versions of `UnifLpTail` (with NNReal norms, with large/strict inequalities...). In this view, `uniformIntegrable_iff_tendsto_iSup_eLpNorm_indicator_atTop` and `uniformIntegrable_iff_tendsto_iSup_eLpNorm_indicator_atTop'` could be deduced from more general results. This might also help naming them. For this reason alone, I think it would be better to wait if possible for #42993 (and a further PR, but everything is already written) to come first.
